US07842715B2
Preparation of N-(4-{[3-(Dimethylamino)pyrrolidin-1-yl]carbonyl}phenyl)-2-phenylquinazolin-4-amine
A mixture of 1-(4-aminobenzoyl)-3-dimethylamino-pyrrolidine (46 mg, 0.2 mmol), 4-chloro-2-phenylquinazoline (48 mg, 0.2 mmol) and pyridine hydrochloride (23 mg, 0.2 mmol) in ethoxyethanol is heated to 135° C. overnight, cooled to room temperature and concentrated in vacuo. The resultant residue is dissolved in a mixture of DMSO, methanol and water and purified by reverse-phase semi-preparative HPLC1 to give the title product as a white powder (15 mg), identified by HPLC and mass spectral analyses. Retention Time, 2.69 min.; MS [438.2 m/e (M+H)]. 1Semi-preparative HPLC Conditions: A=0.02% TFA in water, B=0.02% TFA in acetonitrile, 10-95% B in 8 min., 34 mL/min, 50° C., 215 nm detection, Waters Xterra™ 20×50 mm column.

reactant | 1-(4-aminobenzoyl)-3-dimethylamino-pyrrolidine | 0.2 mmol, 46 mg | NC1=CC=C(C(=O)N2CC(CC2)N(C)C)C=C1 | C13H19N3O
reactant | 4-chloro-2-phenylquinazoline | 0.2 mmol, 48 mg | ClC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C14H9ClN2
reactant | pyridine hydrochloride | 0.2 mmol, 23 mg | Cl.N1=CC=CC=C1
solvent | ethoxyethanol | C(C)OC(C)O | C4H10O2
product | N-(4-{[3-(Dimethylamino)pyrrolidin-1-yl]carbonyl}phenyl)-2-phenylquinazolin-4-amine | 15 mg | CN(C1CN(CC1)C(=O)C1=CC=C(C=C1)NC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1)C | C27H27N5O
